US07470664B2
N-[(Hex-5-en-1-yloxy)carbonyl]-L-norleucine was prepared according to the procedure for N-[(pent-4-en-1-yloxy)carbonyl]-L-norleucine by using 5-hexenol instead of 4-pentenol. LRMS (ESI) m/z 258 [(M+H)+; calcd for C13H24NO4: 258].

reactant | N-[(pent-4-en-1-yloxy)carbonyl]-L-norleucine | C(CCC=C)OC(=O)N[C@@H](CCCC)C(=O)O | C12H21NO4
reactant | 5-hexenol | C(CCCC=C)O | C6H12O
product | N-[(Hex-5-en-1-yloxy)carbonyl]-L-norleucine | C(CCCC=C)OC(=O)N[C@@H](CCCC)C(=O)O | C13H23NO4
